US07435455B2
Synthesis of 8-fluoro-6-(4-(4-vinylcyclohexyl)cyclohexyl)-3,4-dihydrocoumarin (No. 77)
Methyltriphenylphosphonium bromide (3.5 g) was suspended in THF (30 ml), to which was then added potassium butoxide (1.2 g) with stirring while cooling at −30° C. After continuing the stirring at the same temperature for 30 minutes, a solution of 6-(4-(4-formylcyclohexyl)cyclohexyl)-8-fluoro-3,4-dihydrocoumarin (3.2 g) in THF (30 ml) was added dropwise to the reaction mixture. After completion of the dropwise addition, the temperature of the reaction mixture was raised to room temperature, and the resulting reaction mixture was added in ice water and extracted with toluene. An organic layer was washed with water, dried over anhydrous magnesium sulfate, and then concentrated in vacuo. The resulting oily material was subjected to isolation and purification by silica gel column chromatography and recrystallized, thereby obtaining a titled compound (2.1 g).

reactant | potassium butoxide | 1.2 g | [O-]CCCC.[K+]
reactant | 6-(4-(4-formylcyclohexyl)cyclohexyl)-8-fluoro-3,4-dihydrocoumarin | 3.2 g | C(=O)C1CCC(CC1)C1CCC(CC1)C=1C=C2CCC(OC2=C(C1)F)=O | C22H27FO3
catalyst | Methyltriphenylphosphonium bromide | 3.5 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 8-fluoro-6-(4-(4-vinylcyclohexyl)cyclohexyl)-3,4-dihydrocoumarin | 2.1 g | FC=1C=C(C=C2CCC(OC12)=O)C1CCC(CC1)C1CCC(CC1)C=C | C23H29FO2
